US08476442B2
Procedure for the preparation of methyl 2-(5-tert-butyl-2-hydroxy-4-nitrophenyl)-2-methylpropanoate (38)
A mixture of 2-bromo-4-tert-butyl-5-nitrophenol (15.00 g, 54.72 mmol), bis(tri-tert-butylphospine)palladium(0) (1.422 g, 2.783 mmol), zinc fluoride (2.82 g, 27.27 mmol), methyl trimethylsilyl dimethylketene acetal (MTDA) (19.35 g, 111.0 mmol), and dimethylformamide (150 mL) was heated at 70° C. for 18 h. The mixture was cooled to room temperature and diluted with water. After stirring for one hour, the aqueous phase was extracted with MTBE. The organic layer was dried in vacuo to afford the crude product as a brown solid. Purification of the product was accomplished by trituration in n-heptane. 1H-NMR (400 MHZ, DMSO-d6) δ 10.38 (s, 1H); 7.37 (s, 1H); 6.79 (s, 1H); 3.54 (s, 3H); 1.45 (s, 6H); 1.32 (s, 9H)

reactant | 2-bromo-4-tert-butyl-5-nitrophenol | 54.72 mmol, 15.00 g | BrC1=C(C=C(C(=C1)C(C)(C)C)[N+](=O)[O-])O | C10H12BrNO3
reactant | methyl trimethylsilyl dimethylketene acetal | 111.0 mmol, 19.35 g | C/C(=C(\O[Si](C)(C)C)/OC)/C | C8H18O2Si
reactant | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | bis(tri-tert-butylphospine)palladium(0) | 2.783 mmol, 1.422 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | zinc fluoride | 27.27 mmol, 2.82 g | [F-].[Zn+2].[F-]
product | methyl 2-(5-tert-butyl-2-hydroxy-4-nitrophenyl)-2-methylpropanoate | C(C)(C)(C)C=1C(=CC(=C(C1)C(C(=O)OC)(C)C)O)[N+](=O)[O-] | C15H21NO5
